US04198425
Using 8.60 g of 3-methyl-6-phenyl-3,5-hexadien-2-one, 8.0 ml of ethyl bromoacetate and 4.60 g of zinc, the reaction and the purification of the product were carried out according to the method described in Example 1 (a) affording 12.20 g of ethyl 3-hydroxy-3,4-dimethyl-7-phenyl-4,6-heptadienoate.

reactant | 3-methyl-6-phenyl-3,5-hexadien-2-one | 8.60 g | CC(C(C)=O)=CC=CC1=CC=CC=C1 | C13H14O
reactant | ethyl bromoacetate | 8.0 ml | BrCC(=O)OCC | C4H7BrO2
catalyst | zinc | 4.60 g | [Zn] | Zn
product | ethyl 3-hydroxy-3,4-dimethyl-7-phenyl-4,6-heptadienoate | 12.20 g | OC(CC(=O)OCC)(C(=CC=CC1=CC=CC=C1)C)C | C17H22O3
